US07947691B2
5-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-benzo[4,5]thieno[3,2-d]pyrimidin-1-ylmethyl)-furan-2-carboxylic acid methyl ester
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with methyl 5-chloromethyl-2-furoate and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 3.64 (s, 3H); 5.60 (s, 2H); 6.48 (d, J=3 Hz, 1H); 7.09 (d, J=3 Hz, 1H); 7.32 (dd, J=8 Hz, 1H); 7.44 (dd, J=8 Hz, 1H); 7.92 (d, J=9 Hz, 1H); 8.00 (d, J=8 Hz, 1H); Ret. time=2.33 min., m/z=373.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O5S
reactant | methyl 5-chloromethyl-2-furoate | ClCC1=CC=C(O1)C(=O)OC | C7H7ClO3
product | 5-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-benzo[4,5]thieno[3,2-d]pyrimidin-1-ylmethyl)-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)CN1C(N(C(C2=C1C1=C(S2)C=CC=C1)=O)O)=O | C17H12N2O6S
